US03931177
A stirred mixture of crude 6-[4-(2,3-epoxypropoxy)-3-nitrophenyl]-4,5-dihydro-3(2H)-pyridazinone (3.3 g, 0.011 mole), methanol (70 ml), and t-butylamine (7.2 ml, 0.068 mole), was gently heated under reflux for 105 minutes. The filtered solution was evaporated under reduced pressure to an orange coloured foam (4 g, 97%). The crude base (3.77 g) was digested with water (200 ml) and glacial acetic acid added to pH 4, then the solution filtered and washed with dichloromethane (3 × 100 ml). The aqueous phase was treated with potassium carbonate solution to pH 9, then extracted with dichloromethane and the combined organic extracts washed with a little water. Evaporation of the dried solution gave crude 6-[4-(3-t-butylamino-2-hydroxypropoxy)-3-nitrophenyl]-4,5-dihydro-3(2H)-pyridazinone (2.82 g, m.p. about 92°-105°C). After two recrystallisations from ethyl acetate the free base (m.p. about 124°C) was converted into its hydrochloride m.p. 260°-262°C. The pure hydrochloride recrystallised from methanol-ether, had m.p. 263°-265°C (decomposition).

reactant | 6-[4-(2,3-epoxypropoxy)-3-nitrophenyl]-4,5-dihydro-3(2H)-pyridazinone | 0.011 mole, 3.3 g | O1C(COC2=C(C=C(C=C2)C=2CCC(NN2)=O)[N+](=O)[O-])C1 | C13H13N3O5
reactant | t-butylamine | 0.068 mole, 7.2 ml | C(C)(C)(C)N | C4H11N
solvent | methanol | 70 ml | CO | CH4O
product | 6-[4-(3-t-butylamino-2-hydroxypropoxy)-3-nitrophenyl]-4,5-dihydro-3(2H)-pyridazinone | 2.82 g | C(C)(C)(C)NCC(COC1=C(C=C(C=C1)C=1CCC(NN1)=O)[N+](=O)[O-])O | C17H24N4O5
